US05385922
4-Carboxy-2-[2-(2-nitroxypropoxy)phenyl]thiazolidine
Prepared from 2-(2-nitroxypropoxy)benzaldehyde and cysteine as described in Example XVI. Yield: 30%. Empirical formula: C13H16N2O6S. Molecular weight: 328. Melting point: 127°-130° C.

reactant | 2-(2-nitroxypropoxy)benzaldehyde | O([N+](=O)[O-])C(COC1=C(C=O)C=CC=C1)C | C10H11NO5
reactant | cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
product | 4-Carboxy-2-[2-(2-nitroxypropoxy)phenyl]thiazolidine | Yield: 30% | C(=O)(O)C1NC(SC1)C1=C(C=CC=C1)OCC(C)O[N+](=O)[O-] | C13H16N2O6S
